US07759369B2
(b). 6-({5-Chloro-2-[(1,1-dimethylethyl)oxy]phenyl}methyl)-2-pyridine-carboxylic acid
To a solution/suspension of 6-[(5-chloro-2-hydroxyphenyl)methyl]-2-pyridine-carboxylic acid (308 mg) in dry dichloromethane (12 ml) was added t-butyl 2,2,2-trichloroacetimidate (1.67 ml) and boron trifluoride-diethyl etherate (0.05 ml) and the mixture stirred under argon at ambient temperature for 44 hours. Dichloromethane (15 ml) was added and the mixture washed with saturated sodium bicarbonate solution (15 ml). The aqueous layer was extracted with dichloromethane (2×15 ml) and the combined organic extracts washed with brine (25 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by mass-directed autopreparation to afford the title compound (91 mg, 24%) as a white solid.

reactant | 6-[(5-chloro-2-hydroxyphenyl)methyl]-2-pyridine-carboxylic acid | 308 mg | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)O)O | C13H10ClNO3
reactant | t-butyl 2,2,2-trichloroacetimidate | 1.67 ml | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 6-({5-Chloro-2-[(1,1-dimethylethyl)oxy]phenyl}methyl)-2-pyridine-carboxylic acid | 91 mg, 24% | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)O)OC(C)(C)C | C17H18ClNO3
